US08802668B2
2-[(5-Fluoro-1H-indol-7-ylmethyl)-amino]-ethanol
Add 2-aminoethanol (1.93 mL, 32.0 mmol) followed by acetic acid (2.01 mL, 48.0 mmol) to a solution of 5-fluoro-1H-indole-7-carbaldehyde (2.6 g, 16.0 mmol) in 1,2-dichloroethane (40 mL). Stir at room temperature for 15 minutes. Add sodium triacetoxyborohydride (4.07 g, 19.2 mmol) portion wise. Stir the reaction mixture at room temperature for 3 hours. Add saturated aqueous sodium bicarbonate (100 mL) slowly followed by 1 N NaOH to pH ˜9. Extract with ethyl acetate (100 mL×3). Wash the organic phase with saturated aqueous sodium chloride (200 mL×2), dry over sodium sulfate, and concentrate under reduced pressure to provide the desired compound as a pale yellow solid (3.2 g, 96%).

reactant | 2-aminoethanol | 32.0 mmol, 1.93 mL | NCCO | C2H7NO
reactant | acetic acid | 48.0 mmol, 2.01 mL | C(C)(=O)O | C2H4O2
reactant | 5-fluoro-1H-indole-7-carbaldehyde | 16.0 mmol, 2.6 g | FC=1C=C2C=CNC2=C(C1)C=O | C9H6FNO
reactant | sodium triacetoxyborohydride | 19.2 mmol, 4.07 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 2-[(5-Fluoro-1H-indol-7-ylmethyl)-amino]-ethanol | 3.2 g, 96% | FC=1C=C2C=CNC2=C(C1)CNCCO | C11H13FN2O
